US07456164B2
Intermediate 16: (3-Chloro-propyl)-diethyl-amine
Diethyl-amine (7.27 ml, 70 mmol), acetone (15 ml, 3 vol), 5M NaOH solution (16.8 ml, 1.2 eq.) and 1-bromo-3-chloropropane (16.5 g, 105 mmol, 1.5 eq.) were reacted together according to general procedure A to give the title compound (6.2 g, 59%) as a colourless oil.

reactant | Diethyl-amine | 70 mmol, 7.27 ml | C(C)NCC | C4H11N
reactant | NaOH | 5M, 16.8 ml, 1.2 eq. | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 105 mmol, 16.5 g, 1.5 eq. | BrCCCCl | C3H6BrCl
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | (3-Chloro-propyl)-diethyl-amine | 6.2 g, 59% | ClCCCN(CC)CC | C7H16ClN
